US08497265B2
A mixture of tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (459 mg, 1.0 mmol) and wet Pd—C (50%, 300 mg) in MeOH (20 mL) was stirred under H2 (30 psi) at room temperature overnight then the reaction mixture was filtered through and washed with MeOH. The filtrate was concentrated in vacuo to give tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidine-1-carboxylate (400 mg, 0.86 mmol, yield 86%). ESI-MS (M+1): 463 calc. for C26H31N5O3 462.

reactant | tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.0 mmol, 459 mg | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)C1=CCN(CC1)C(=O)OC(C)(C)C | C26H29N5O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)piperidine-1-carboxylate | 0.86 mmol, 400 mg, yield 86% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H31N5O3
